US07091220B2
3-[(2-Chlorophenyl)-piperidin-1-yl-methyl]-1-ethyl-2-phenyl-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 1-ethyl-2-phenyl-1H-indole and 1-(2-chloro-benzylidene)-piperidinium chloride

reactant | 1-ethyl-2-phenyl-1H-indole | C(C)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C16H15N
reactant | 1-(2-chloro-benzylidene)-piperidinium chloride | [Cl-].ClC1=C(C=[N+]2CCCCC2)C=CC=C1
product | 3-[(2-Chlorophenyl)-piperidin-1-yl-methyl]-1-ethyl-2-phenyl-1H-indole | ClC1=C(C=CC=C1)C(C1=C(N(C2=CC=CC=C12)CC)C1=CC=CC=C1)N1CCCCC1 | C28H29ClN2
